US08633189B2
4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (211 mg, 0.61 mmol) was dissolved in a mixture of glacial acetic acid (3 mL) and water (1 mL). Additional acetic acid (1 mL) was added to facilitate stirring. Zn dust (401 mg, 6.13 mmol) was added at room temperature and the reaction stirred for 10 min. The reaction was diluted with acetonitrile (5 mL) and methanol (5 mL) and filtered. The solution was diluted with ethyl acetate, washed with 50% saturated aqueous NaHCO3 (2×20 mL) and brine, dried over Na2SO4, filtered, and dried down to provide 5-amino-4-bromo-2-cyclopentylphenyl methyl carbonate as a light orange solid (189 mg, 98% yield). LC/MS m/z 315.0 [M+H]+.

reactant | 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 0.61 mmol, 211 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | methanol | 5 mL | CO | CH4O
catalyst | Zn | 6.13 mmol, 401 mg | [Zn] | Zn
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 5-amino-4-bromo-2-cyclopentylphenyl methyl carbonate | 189 mg, 98% yield | C(OC1=C(C=C(C(=C1)N)Br)C1CCCC1)(OC)=O | C13H16BrNO3
